US08609653B2
To a solution of (E)-diethyl 2-(1-((1-(2,3-difluorobenzyl)pyrrolidin-2-ylidene)amino)ethylidene)malonate (36.3 g, 69.9 mmol) in N,N-dimethylformamide (DMF) (140 mL) was added sodium ethoxide (78 mL, 210 mmol) (21% wt./EtOH) and the mixture was placed in a pre-heated oil bath at 100° C. and stirred for 1 h. The mixture was cooled to ambient temperature and then poured slowly into cold 1 N HCl/water (−150 mL) and then more 1N HCl/water was added to pH 8-9. After stirring at 0° C. for 30 min The solid was filtered, washed with water and dried in vacuo for 18 h to provide ethyl 1-(2,3-difluorobenzyl)-4-hydroxy-6-methyl-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine-5-carboxylate (10 g, 27.3 mmol, 39.0% yield) as a light tan solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.42 (t, J=7.12 Hz, 3 H), 2.66 (s, 3 H), 2.95 (t, J=8.68 Hz, 2 H), 3.53 (t, J=8.78 Hz, 2 H), 4.39 (q, J=7.02 Hz, 2 H), 4.72 (s, 2 H), 6.90-7.20 (m, 3 H), 11.94 (s, 1 H); LCMS (m/z) ES+=349 (M+1).

reactant | (E)-diethyl 2-(1-((1-(2,3-difluorobenzyl)pyrrolidin-2-ylidene)amino)ethylidene)malonate | 69.9 mmol, 36.3 g | FC1=C(CN2\C(\CCC2)=N\C(C)=C(C(=O)OCC)C(=O)OCC)C=CC=C1F | C20H24F2N2O4
reactant | sodium ethoxide | 210 mmol, 78 mL | [O-]CC.[Na+]
reactant | EtOH | CCO | C2H6O
reactant | HCl water | 1 N, −150 mL | Cl.O
reactant | HCl water | 1N | Cl.O
solvent | N,N-dimethylformamide | 140 mL | CN(C=O)C | C3H7NO
product | ethyl 1-(2,3-difluorobenzyl)-4-hydroxy-6-methyl-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine-5-carboxylate | 27.3 mmol, 10 g, 39.0% yield | FC1=C(CN2CCC=3C2=NC(=C(C3O)C(=O)OCC)C)C=CC=C1F | C18H18F2N2O3
